US04563450
To a mixture of benzhydryl 7-[2-methoxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-[2-(2-propynyl)-2H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylate (syn isomer) (2.7 g) in methanol (19.0 ml) were added conc. hydrochloric acid (0.75 g) and tetrahydrofuran (10 ml) and the mixture was stirred for 3 hours at room temperature. After the evaporation of the reaction mixture, to the residue were added water and ethyl acetate and then the resulting mixture was adjusted to pH 7.0 with a saturated aqueous solution of sodium carbonate. After the addition of tetrahydrofuran to the resulting mixture, the organic layer was separated, washed with a saturated aqueous solution of sodium chloride (×2), dried over magnesium sulfate and then evaporated. The residue was pulverized in isopropyl ether, collected by filtration, washed with isopropyl ether and then dried to give benzhydryl 7-[2-methoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-[2-(2-propynyl)-2H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylate (syn isomer) (2.0 g).

reactant | benzhydryl 7-[2-methoxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-[2-(2-propynyl)-2H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylate | 2.7 g | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2N=NN(N2)CC#C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C=1N=C(SC1)NC=O | C32H27N9O6S3
reactant | hydrochloric acid | 0.75 g | Cl | ClH
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | methanol | 19.0 ml | CO | CH4O
product | benzhydryl 7-[2-methoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-[2-(2-propynyl)-2H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylate | 2.0 g | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2N=NN(N2)CC#C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C=1N=C(SC1)N | C31H27N9O5S3
